US07598258B2
1-(1,3-Thiazol-2-yl)-1-ethylamine (racemate) (2.0 g) was dissolved in dichloromethane (20 ml) to prepare a solution. Triethylamine (2.5 ml) was added to the solution, and the mixture was cooled to 0° C. Di-tert-butyl dicarbonate (3.7 g) was added thereto, and the mixture was stirred at room temperature for 3 hr. Water (40 ml) was added thereto, and the mixture was extracted three times with chloroform. The organic layer was washed with saturated brine and was dried over sodium sulfate. The solvent was removed, and the residue was purified by chromatography on silica gel using hexane/ethyl acetate for development to give tert-butyl N-[1-(1,3-thiazol-2-yl)ethyl]carbamate (racemate) (2.8 g, 62%).

reactant | 1-(1,3-Thiazol-2-yl)-1-ethylamine | 2.0 g | S1C(=NC=C1)C(C)N | C5H8N2S
reactant | Triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | Di-tert-butyl dicarbonate | 3.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 40 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | tert-butyl N-[1-(1,3-thiazol-2-yl)ethyl]carbamate | 2.8 g, 62% | S1C(=NC=C1)C(C)NC(OC(C)(C)C)=O | C10H16N2O2S
